US06492383B1
N-(4-Methoxy-phenyl)-N′-(6-thiophen-2-yl-thieno[3,2-d]pyrimidin-4-yl)-benzene-1,4-diamine
The title compound was prepared from 2-thiophene boronic acid and N-(6-bromo-thieno[3,2-d]pyrimidin-4-yl)-N′-(4-methoxy-phenyl)-benzene-1,4-diamine by a procedure analogous to example 2. M.P. 231-40° C. ; LC-MS: 431 (MH+); HPLC RT: 6.740 minutes.

reactant | 2-thiophene boronic acid | S1C(=CC=C1)B(O)O | C4H5BO2S
reactant | N-(6-bromo-thieno[3,2-d]pyrimidin-4-yl)-N′-(4-methoxy-phenyl)-benzene-1,4-diamine | BrC1=CC=2N=CN=C(C2S1)NC1=CC=C(C=C1)NC1=CC=C(C=C1)OC | C19H15BrN4OS
product | N-(4-Methoxy-phenyl)-N′-(6-thiophen-2-yl-thieno[3,2-d]pyrimidin-4-yl)-benzene-1,4-diamine | COC1=CC=C(C=C1)NC1=CC=C(C=C1)NC=1C2=C(N=CN1)C=C(S2)C=2SC=CC2 | C23H18N4OS2
